US09421205B2
(c) tert-Butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate (I136)
A solution of tert-butyl 4-(4-nitrophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate (I134 and I135) (0.442 g, 1.52 mmol) in EtOH (10 mL) and DMF (10 mL) was added to a solution of 10% Pd/C (255 mg) in DMF (10 mL). The reaction was stirred at room temperature for 17 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite and washed through with EtOAc (130 mL). The solvent was removed in vacuo to yield a brown oil which was purified by column chromatography on silica gel (0-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I136) (0.307 g, 77%) as a brown oil; 1H NMR (400 MHz, CDCl3) δ 7.02 (d, J=8.4 Hz, 2H), 6.64 (d, J=8.4 Hz, 2H), 3.85-3.49 (m, 4H), 3.43-3.29 (m, 1H), 3.29-3.15 (m, 2H), 2.18 (d, J=6.5 Hz, 1H), 1.97-1.85 (m, 1H), 1.47 (d, J=4.7 Hz, 9H). LCMS Method C: rt 4.88 min; m/z 163.2 [M-Boc+H]+.

reactant | tert-butyl 4-(4-nitrophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 1.52 mmol, 0.442 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1CCN(C1)C(=O)OC(C)(C)C | C15H18N2O4
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 255 mg | [Pd] | Pd
product | tert-Butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate | NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
